Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
acute on chronic blood loss anemia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G3P3 w h/o dilated cardiomyopathy who presents with
heavy vaginal bleeding and acute on chronic anema. Patient 
states
she has a h/o heavy menses, but has felt her bleeding increase 
in
the past few months. States since ___, her periods have
become irregular, used to be every month, and now every 2 months
or so. States most recently her period began on ___, heavy,
with passage of large fists size clots, soaking through ___
and 2 adult diapers per day. 

states at baseline she has a h/o iron deficiency anemia, due to
her heavy vaginal bleeding. currently taking PO iron 
supplements.

Denies lightheadedness, dizziness, CP, SOB, 

 
Past Medical History:
Obstetrical History: G3P3
- csection x 2
- SVD x 1

Gynecologic History:
 - Menarche age ___, 
 - Menses irregular for the past few months, prior to that 
qmonth
 - Last pap?: ___
 - History of abnormal paps?: denies
 - Sexually active male (husband)
 - History of STIs?: denies
 - Current contraception: denies
 - D&C x 2 for AUB

Past Medical History:
HYPERCHOLESTEROLEMIA                                            
fh also in mother                                               
IRON DEFICIENCY ANEMIA                                          
d/t heavy menses negative upper and lower endoscopy. Negative   
Capsule endoscopy                                               
LYMPHAEDEMA                                                     
MORBID OBESITY                                                  
PRE-DIABETES                                                    
TOBACCO ABUSE                                                   
VITAMIN D DEFICIENCY                                            
ACNE                                                            
GRAVE'S DISEASE                                                 
Dr ___                                                    
___ OSTEOARTHRITIS                                             
right greater than left on x-ray                                
DYSMENORRHEA                                                    
FIBROADENOMA, RIGHT                                             
Core biopsy proven at 11:00.                                    
COLONIC ADENOMA                                                 
CLOSTRIDIUM DIFFICILE ENTEROCOLITIS                             
ROSACEA                                                         
H/O CARDIOMYOPATHY                                              
dilated, ef 45%. visit w/ dr ___ at ___. her         
idiopathic systolic dysfunction w/ dec lvef has resolved w/ echo
showing only mild lv enlargement and ___, but 
no other abns. ___                                           

H/O VISUAL SCOTOMATA 

Past Surgical History: 
- D&C for AUB many years ago
- c-section
- breast cyst removal, bilaterally

NKDA
 
Social History:
___
Family History:
 - Denies family history of Breast ca, Gyn Ca, or Colon Ca
 - Denies family history of bleeding/clotting disorders

 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding
Ext: no tenderness to palpation
 
Pertinent Results:
___ 03:40PM   IRON-16*
___ 03:40PM   calTIBC-389 FERRITIN-8.9* TRF-299
___ 03:40PM   WBC-9.6 RBC-3.22* HGB-7.1* HCT-23.7* MCV-74* 
MCH-22.0* MCHC-30.0* RDW-27.1* RDWSD-69.2*
___ 03:40PM   WBC-9.6 RBC-3.22* HGB-7.1* HCT-23.7* MCV-74* 
MCH-22.0* MCHC-30.0* RDW-27.1* RDWSD-69.2*
___ 03:40PM   PLT COUNT-285
___ 08:00AM   WBC-9.3 RBC-3.12* HGB-6.7* HCT-23.1* MCV-74* 
MCH-21.5* MCHC-29.0* RDW-26.9* RDWSD-68.9*
___ 08:00AM   PLT COUNT-262
___ 06:17AM   WBC-9.6 RBC-3.03* HGB-6.6* HCT-22.4* MCV-74* 
MCH-21.8* MCHC-29.5* RDW-26.9* RDWSD-69.4*
___ 06:17AM   WBC-9.6 RBC-3.03* HGB-6.6* HCT-22.4* MCV-74* 
MCH-21.8* MCHC-29.5* RDW-26.9* RDWSD-69.4*
___ 12:45AM   WBC-10.9* RBC-3.01* HGB-6.3* HCT-21.4* 
MCV-71* MCH-20.9* MCHC-29.4* RDW-25.7* RDWSD-62.4*
___ 12:45AM   NEUTS-63.7 ___ MONOS-8.2 EOS-2.1 
BASOS-0.3 NUC RBCS-0.2* IM ___ AbsNeut-6.94* AbsLymp-2.73 
AbsMono-0.89* AbsEos-0.23 AbsBaso-0.03
___ 12:45AM   PLT COUNT-281
___ 06:14PM   LACTATE-1.7
___ 05:40PM   GLUCOSE-115* UREA N-12 CREAT-0.7 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-25 ANION GAP-11
___ 05:40PM   estGFR-Using this
___ 05:40PM   estGFR-Using this
___ 05:40PM   LIPASE-21
___ 05:40PM   cTropnT-<0.01
___ 05:40PM   CK-MB-1
___ 05:40PM   ALBUMIN-3.9 CALCIUM-9.8 PHOSPHATE-4.7* 
MAGNESIUM-1.9
___ 05:40PM   WBC-12.2* RBC-3.34* HGB-6.7* HCT-23.0* 
MCV-69* MCH-20.1* MCHC-29.1* RDW-25.2* RDWSD-58.7*
___ 05:40PM   NEUTS-67.3 ___ MONOS-6.8 EOS-1.8 
BASOS-0.3 NUC RBCS-0.3* IM ___ AbsNeut-8.21* AbsLymp-2.83 
AbsMono-0.83* AbsEos-0.22 AbsBaso-0.04
___ 05:40PM   PLT COUNT-356
___ 05:40PM   ___ PTT-28.9 ___
___ 05:40PM   ___
 
Brief Hospital Course:
On ___, Ms ___ was admitted to they gynecologic 
service after presenting with vaginal bleeding found to have 
acute on chronic blood loss anemia. Please see H&P for full 
details. 

Prior to admission, her pelvic ultrasound on ___ demonstrated 
enlarged uterus with heterogeneous myometrium c/w adenomyosis, 
multiple small fibroids, largest 1.8 cm diameter. Her hematocrit 
was 23. She received 2 units of pRBCs. Her hematocrit was stable 
at 23 on ___. Iron studies were consistent with iron 
deficiency. She received an iron infusion on ___. On ___, her 
hematocrit was increased to 26 and her symptoms improved. 

At time of admission she was NPO with maintenance fluids for 
possible surgical intervention. Decision was made to defer 
surgical intervention and she was advance to a regular diet. 

By hospital day 2, patient's vaginal bleeding had slowed down, 
symptoms of anemia improved, tolerating regular diet. Patient 
was deemed stable. She was discharged home with outpatient 
follow-up and instructions to schedule one week IV infusion. 
 
Medications on Admission:
ibuprofen 
iron pills 
 
Discharge Medications:
1.  MedroxyPROGESTERone Acetate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute on chronic anemia secondary to vaginal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after presenting 
with vaginal bleeding and found to have acute on chronic anemia 
due to bleeding. You have recovered well and the team believes 
you are ready to be discharged home. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge

 
Followup Instructions:
___